US07605277B2
To a solution of 0.161 g (0.715 mmole) of palladium (II) acetate in 20 ml of xylene was added 0.58 g (2.86 mmoles) of tri-tert-butylphosphine and heated at 80° C. for 30 minutes. The resulting solution was forwarded into a solution heated at 80° C. of 5.24 g (0.0143 mole) of N,N′-diphenyl-2,6-diaminodibenzodioxin, 7.41 g (0.0358 mole) of 1-bromonaphthalene, and 5.77 g (0.06 mole) of sodium tert-butoxide in 260 ml of xylene. The mixture was then heated up to 135° C. and further heated at this temperature with stirring for 4 hours. The mixture was cooled to room temperature, 200 ml of water was added, and the aqueous layer was separated from the organic layer. The aqueous layer was washed with 200 ml of toluene, the toluene washing was mixed with the organic layer, the mixture was concentrated and dried under reduced pressure to give 9.5 g of a crude product. The crude product was subjected to reslurrying under heat with ethyl acetate and dried under reduced pressure to give 3.40 g (0.0055 mole) of N,N′-di(1-naphthyl)-N,N′-diphenyl-2,6-diaminodibenzodioxin in a 38.5% yield. The product thus obtained showed a purity of 98.3 area % (HPLC, 254 nm). The product was further purified by sublimation.

reactant | tri-tert-butylphosphine | 2.86 mmoles, 0.58 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | N,N′-diphenyl-2,6-diaminodibenzodioxin | 0.0143 mole, 5.24 g | C1(=CC=CC=C1)NC1=CC2=C(OC3=C(O2)C=CC=C3NC3=CC=CC=C3)C=C1 | C24H18N2O2
reactant | 1-bromonaphthalene | 0.0358 mole, 7.41 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | sodium tert-butoxide | 0.06 mole, 5.77 g | CC(C)([O-])C.[Na+]
reactant | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 260 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium (II) acetate | 0.715 mmole, 0.161 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | N,N′-di(1-naphthyl)-N,N′-diphenyl-2,6-diaminodibenzodioxin | 0.0055 mole, 3.40 g, 38.5% yield | C1(=CC=CC2=CC=CC=C12)N(C1=CC2=C(OC3=C(O2)C=CC=C3N(C3=CC=CC=C3)C3=CC=CC2=CC=CC=C32)C=C1)C1=CC=CC=C1 | C44H30N2O2
